US04548932
A mixture of tert-butyl 3(S)-amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate (1.65 g), ethyl 2-bromo-10-phthalimidodecanoate (2.4 g), acetonitrile (100 ml) and triethylamine (0.75 g) is heated at 80° C. for 4 days. After evaporation of the solvent, ethyl acetate (200 ml) and water (100 ml) are added to the residue. The ethyl acetate layer is dried over anhydrous magnesium sulfate and evaporated in vacuo. The oily residue is chromatographed on silica gel using hexane-ethyl acetate (2:1) as an eluent. Evaporation of the first fraction gives tert-butyl 3(S)-[1(R)-ethoxycarbonyl-9-phthalimidononyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate (0.45 g) as a colorless oil.

reactant | tert-butyl 3(S)-amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate | 1.65 g | N[C@H]1COC2=C(N(C1=O)CC(=O)OC(C)(C)C)C=CC=C2 | C15H20N2O4
reactant | ethyl 2-bromo-10-phthalimidodecanoate | 2.4 g | BrC(C(=O)OCC)CCCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C20H26BrNO4
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | triethylamine | 0.75 g | C(C)N(CC)CC | C6H15N
product | tert-butyl 3(S)-[1(R)-ethoxycarbonyl-9-phthalimidononyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate | 0.45 g | C(C)OC(=O)[C@@H](CCCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)N[C@H]2COC1=C(N(C2=O)CC(=O)OC(C)(C)C)C=CC=C1 | C35H45N3O8
